US04298602
To a solution of 2.3 g (0.10 m) of sodium metal dissolved in 125 ml of methanol was added a solution of 5.51 g (0.05 m) of thiophenol in 25 ml of methanol. To this mixture was added 9.8 g (0.05 m) of 1-(2-pyridinyl)-5-chloro-1H-1,2,4-triazol-3-ol and the mixture stirred for three hours at room temperature. The methanol was removed by evaporation under vacuum and the residue which remained was taken up in water and the water insoluble solids were removed by filtration. The aqueous layer was acidified with concentrated hydrochloric acid. The white solid which precipitated was recovered by filtration and dried under vacuum to yield 9.5 g (~70 percent of theoretical) of the desired 1-(2-pyridinyl)-5-(phenylthio)-1H-1,2,4-triazol-3-ol product. The product melted at 235°-237° C. and upon analysis was found to have carbon, hydrogen and nitrogen contents of 55.87, 3.79 and 19.90 percent, respectively, as compared with the theoretical contents of 55.91, 3.93 and 20.06 percent, respectively, calculated for the above named compound.

reactant | sodium | 2.3 g | [Na] | Na
reactant | thiophenol | 5.51 g | C1(=CC=CC=C1)S | C6H6S
reactant | 1-(2-pyridinyl)-5-chloro-1H-1,2,4-triazol-3-ol | 9.8 g | N1=C(C=CC=C1)N1N=C(N=C1Cl)O | C7H5ClN4O
solvent | methanol | 125 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 1-(2-pyridinyl)-5-(phenylthio)-1H-1,2,4-triazol-3-ol | 9.5 g, ~70 percent | N1=C(C=CC=C1)N1N=C(N=C1SC1=CC=CC=C1)O | C13H10N4OS
